US07977351B2
3-[2-(2,2-Dimethoxy-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (141 mg, 0.93 mmol.) in THF (4 mL) is treated with a solution of lithium bis(trimethylsilyl)amide (1.9 mL of a 1 M solution in THF, 1.9 mmol) dropwise. The resulting solution is stirred at room temperature for 10 min. A solution of 2-(2,2-dimethoxy-ethyl)-7H-furo[3,4-b]pyridin-5-one (104 mg, 0.47 mmol in THF (1 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 1.5 h and is then poured into cold aqueous 2N H2SO4 solution (10 mL) at 0° C. The resulting mixture is heated at 45° C. for 30 min and then cooled to room temperature and stirred overnight. The reaction mixture is poured into ice water (150 mL) and stirred for 2h. The solid which formed is collected to give the title compound as a brown solid (76 mg, 46%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.93 mmol, 141 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(2,2-dimethoxy-ethyl)-7H-furo[3,4-b]pyridin-5-one | COC(CC1=CC=C2C(=N1)COC2=O)OC | C11H13NO4
reactant | H2SO4 | 2N, 10 mL | OS(=O)(=O)O | H2O4S
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-[2-(2,2-Dimethoxy-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 76 mg, 46% | COC(CC1=CC=C2C(=N1)COC2=C2C(NC1=CC=C(C=C21)F)=O)OC | C19H17FN2O4
